US09376442B2
tert-butyl (3R)-3-{[(4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}pyrrolidine-1-carboxylate
Starting from 4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.c6) and commercially available tert-butyl (R)-3-amino-pyrrolidine-1-carboxylate the title compound is obtained as colorless foam.

reactant | 4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C=C1)OC)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C25H33N3O5Si
reactant | tert-butyl (R)-3-amino-pyrrolidine-1-carboxylate | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl (3R)-3-{[(4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}pyrrolidine-1-carboxylate | C1(CC1)COC1=C(C=C(C=C1)OC)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)N[C@H]2CN(CC2)C(=O)OC(C)(C)C | C34H49N5O6Si
